US04835291
Synthesis of 3,3-bis[2-(p-dimethylaminophenyl)-2-(p-methoxyphenyl)ethenyl]-4,5,6,7-tetrachlorophthalide
Into 25 ml of acetic anhydride, 13.0 g of 1-(p-methoxyphenyl)-1-(p-dimethylaminophenyl)ethylene and 9.3 g of tetrachlorophthalic anhydride were added and the mixture was stirred for 2 hours at 120° C. After adding the reaction mixture into 200 ml of water and making the mixture alkaline with sodium hydroxide, the alkaline mixture was extracted with 70 ml of toluene. The solid matter obtained by distilling off toluene from the extract was recrystallized from butanol while purifying with activated carbon to obtain 14.3 g of pale yellow crystals melting at 133°-135° C.

reactant | acetic anhydride | 25 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 1-(p-methoxyphenyl)-1-(p-dimethylaminophenyl)ethylene | 13.0 g | COC1=CC=C(C=C1)C(=C)C1=CC=C(C=C1)N(C)C | C17H19NO
reactant | tetrachlorophthalic anhydride | 9.3 g | ClC=1C(=C(C(=C2C1C(=O)OC2=O)Cl)Cl)Cl | C8Cl4O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 200 ml | O | H2O
product | 3,3-bis[2-(p-dimethylaminophenyl)-2-(p-methoxyphenyl)ethenyl]-4,5,6,7-tetrachlorophthalide | 14.3 g | CN(C1=CC=C(C=C1)C(=CC1(OC(=O)C2=C(C(=C(C(=C12)Cl)Cl)Cl)Cl)C=C(C1=CC=C(C=C1)N(C)C)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC)C | C42H36Cl4N2O4
